US06271406B1
Preparation of 1,2-bis(chlorodimethylsilyl)ethane C6H14Si2Cl2
H2 gas was forced into 300.0 g (1.41 mol) of 1,2-bis (chlorodimethylsilyl)ethene and 1.5 g(0.7 mmol of pure Pd) of Pd/active carbon while stirring at a temperature of 50° C., until a pressure of 5.0 bar was reached. As a result of the reaction, the pressure gradually decreased again to about 2.0 to 2.5 bar (progressing hydrogenation reaction). Further H2 gas was forced in until a pressure of 5.0 bar was reached. Once again the pressure decreased to 2.0 to 2.5 bar, as a result of the hydrogenation reaction. This process was repeated about 15 to 20 times until the pressure remained constant at 5 bar when further H2 gas was forced in, i.e. no more H2 gas was absorbed by the system. Stirring was then continued for 2 h at a pressure of 5 bar and a temperature of 50° C. After venting, filtration was effected over a pressure drop. The results are summarized in Table 1.

reactant | 1,2-bis (chlorodimethylsilyl)ethene | 1.41 mol, 300.0 g | Cl[Si](C=C[Si](C)(C)Cl)(C)C | C6H14Cl2Si2
catalyst | Pd | 0.7 mmol, 1.5 g | [Pd] | Pd
product | 1,2-bis(chlorodimethylsilyl)ethane | Cl[Si](CC[Si](C)(C)Cl)(C)C | C6H16Cl2Si2
